US04621094
D. 2-Bromo-6-(1-(4-chlorophenyl)-3-dimethylaminopropyl)pyridine
A solution of E-2-bromo-6-(1-(4-chlorophenyl)-3-dimethylaminoallyl)pyridine (vide supra (2.0 g) in absolute ethanol (150 mL) was stirred under hydrogen with 10% Pt/C (0.86 g) for 48 hr. The reaction mixture was filtered through Celite and the reduction continued with fresh catalyst (0.67 g) for an additional 96 hr. Filtration through Celite and concentration under reduced pressure gave an oil which was chromatographed on silica gel (Waters Prep 500) with 3:1/methanol:methylene chloride. This provided 2-bromo-6-(1-(4-chlorophenyl)-3-dimethylaminopropyl)pyridine (0.66 g) as an oil:TLC Rf 0.22 (silica gel, methanol).

reactant | E-2-bromo-6-(1-(4-chlorophenyl)-3-dimethylaminoallyl)pyridine | BrC1=NC(=CC=C1)C(\C=C\N(C)C)C1=CC=C(C=C1)Cl | C16H16BrClN2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | Pt/C | 0.86 g | [Pt] | Pt
product | 2-Bromo-6-(1-(4-chlorophenyl)-3-dimethylaminopropyl)pyridine | BrC1=NC(=CC=C1)C(CCN(C)C)C1=CC=C(C=C1)Cl | C16H18BrClN2
